US09216968B2
THF (1 mL) was added to 2-chloro-6-{[(2-chloro-6-fluorophenyl)carbonyl]amino}-N-(3-chloro-2-methylphenyl)-1H-benzimidazole-4-carboxamide (50 mg) and 2-aminoethyl isopropyl ether (32 mg). The mixture was stirred at 150° C. in a sealed pressure-proof stainless steel container for 17 hours. The reaction mixture was diluted with ethyl acetate and washed with brine and concentrated under reduced pressure. The residue was purified on column chromatography to obtain 6-{[(2-chloro-6-fluorophenyl)carbonyl]amino}-N-(3-chloro-2-methylphenyl)-2-{[2-(propan-2-yloxy)ethyl]amino}-1H-benzimidazole-4-carboxamide (41 mg) as pale yellow powder. This was dissolved in MeOH (1 mL), 2N hydrogen chloride/EtOH solution (1 Eq) was added, and it was stirred and concentrated. The residue was triturated in diethyl ether, and the precipitate was collected by filtration and dried to obtain the titled compound (35 mg) as white powder.

reactant | THF | 1 mL | C1CCOC1 | C4H8O
reactant | 2-chloro-6-{[(2-chloro-6-fluorophenyl)carbonyl]amino}-N-(3-chloro-2-methylphenyl)-1H-benzimidazole-4-carboxamide | 50 mg | ClC1=NC2=C(N1)C=C(C=C2C(=O)NC2=C(C(=CC=C2)Cl)C)NC(=O)C2=C(C=CC=C2F)Cl | C22H14Cl3FN4O2
reactant | 2-aminoethyl isopropyl ether | 32 mg | C(C)(C)OCCN | C5H13NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-{[(2-chloro-6-fluorophenyl)carbonyl]amino}-N-(3-chloro-2-methylphenyl)-2-{[2-(propan-2-yloxy)ethyl]amino}-1H-benzimidazole-4-carboxamide | 41 mg | ClC1=C(C(=CC=C1)F)C(=O)NC=1C=C(C2=C(NC(=N2)NCCOC(C)C)C1)C(=O)NC1=C(C(=CC=C1)Cl)C | C27H26Cl2FN5O3
